US08110580B2
3-(3-Chloro-thiophene-2-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine
Suspend Reike® zinc (5 g/100 mL THF, 20 mL, 15.0 mmol) in anhydrous THF (10 mL) and add 2-bromo-3-chlorothiophene (1.98 g, 10.0 mmol). Reflux the mixture under an inert atmosphere in an oil bath (85° C.) for 3 h. Cool the reaction to room temperature and centrifuge the remaining zinc metal. Canulate off the reagent solution into a new vessel under positive argon pressure and add 7-(1-ethyl-propyl)-3-iodo-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine (1.72 g, 5.0 mmol). Degas the solution by positive argon pressure for 10-15 min and add dichloro[1,1′-bis(diphenyl-phosphino)ferrocene]palladium (II) dichloromethane (0.225 g, 0.275 mmol). Stir at reflux temperature overnight under an inert atmosphere. Cool the reaction to room temperature, quench with saturated ammonium chloride, and dilute with ethyl acetate (75 mL). Separate and extract the aqueous portion with ethyl acetate (50 mL), combine the organic phases, dry over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Purify the resulting residue using flash chromatography, eluting with 100% hexane/0% (15% ethyl acetate/hexane) to 0% hexane/100% (15% ethyl acetate/hexane) in a step gradient of 10% increments to give a yellow solid (1.35 g, 40%). ES/MS m/z (35Cl) 334.4 (M+1)+.

reactant | 2-bromo-3-chlorothiophene | 10.0 mmol, 1.98 g | BrC=1SC=CC1Cl | C4H2BrClS
reactant | 7-(1-ethyl-propyl)-3-iodo-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 5.0 mmol, 1.72 g | C(C)C(CC)C1=CC(=NC=2N1N=C(C2I)C)C | C13H18IN3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | zinc | 15.0 mmol, 100 mL, 5 g | [Zn] | Zn
product | 3-(3-Chloro-thiophene-2-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 1.35 g, 40% | ClC1=C(SC=C1)C=1C(=NN2C1N=C(C=C2C(CC)CC)C)C | C17H20ClN3S
